US09145415B2
To a suspension of tert-butyl ((6-iodo-1H-benzo[d]imidazol-2-yl)methyl)carbamate (G4, 216 mg), bis(triphenylphosphine)palladium(II) dichloride (40 mg) and copper(I) iodide (22 mg) in tetrahydrofuran (2 mL), triethylamine (243 μL) and trimethylsilylacetylene (96 μL) were added at room temperature, and the mixture was stirred at the same temperature for 3 hours. To the reaction mixture, ethyl acetate and saturated aqueous sodium hydrogencarbonate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 70 to 0% hexane in ethyl acetate) to obtain tert-butyl ((6-((trimethylsilyl)ethynyl)-1H-benzo[d]imidazol-2-yl)methyl)carbamate (G5, 82 mg).

reactant | tert-butyl ((6-iodo-1H-benzo[d]imidazol-2-yl)methyl)carbamate | 216 mg | IC=1C=CC2=C(NC(=N2)CNC(OC(C)(C)C)=O)C1 | C13H16IN3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | trimethylsilylacetylene | 96 μL | C[Si](C)(C)C#C | C5H10Si
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 243 μL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 40 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 22 mg | [Cu]I
product | tert-butyl ((6-((trimethylsilyl)ethynyl)-1H-benzo[d]imidazol-2-yl)methyl)carbamate | C[Si](C)(C)C#CC=1C=CC2=C(NC(=N2)CNC(OC(C)(C)C)=O)C1 | C18H25N3O2Si
